US07776857B2
A resealable tube was charged with 1-chloro-4-(5-chloropyridin-2-yl)phthalazine (0.095 g, 0.34 mmol), 4-(2-(trimethylsilyl)furo[3,2-b]pyridin-7-ylthio)benzenamine (0.090 g, 0.29 mmol) and 2-butanol (3.0 mL). The system was flushed with argon, and the tube was sealed. The mixture stirred at 100° C. for 2 h. LC-MS showed starting aniline and hydrolyzed phthalazine, so 90 mg of chlorophthalazine was added and the reaction was stirred for 1 h at 100° C. The reaction was concentrated, re-dissolved in THF, and TBAF (1.0 M in THF) (0.29 ml, 0.29 mmol) was added. The reaction was stirred at 60° C. overnight. The reaction was concentrated and purified via Gilson HPLC (gradient elution 10-90% MeCN:H2O). The clean fractions were partitioned between DCM and saturated sodium bicarbonate solution and the layers were separated. The aqueous layer was extracted with DCM and the combined organic layers were dried with sodium sulfate, filtered, and concentrated to afford 4-(5-chloropyridin-2-yl)-N-(4-(furo[3,2-b]pyridin-7-ylthio)phenyl)phthalazin-1-amine as a yellow solid. MS: M+H+=482.1.

reactant | 1-chloro-4-(5-chloropyridin-2-yl)phthalazine | 0.34 mmol, 0.095 g | ClC1=NN=C(C2=CC=CC=C12)C1=NC=C(C=C1)Cl | C13H7Cl2N3
reactant | 4-(2-(trimethylsilyl)furo[3,2-b]pyridin-7-ylthio)benzenamine | 0.29 mmol, 0.090 g | C[Si](C1=CC2=NC=CC(=C2O1)SC1=CC=C(C=C1)N)(C)C | C16H18N2OSSi
reactant | TBAF | 0.29 mmol, 1.0 M, 0.29 ml | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | 2-butanol | 3.0 mL | CC(CC)O | C4H10O
product | 4-(5-chloropyridin-2-yl)-N-(4-(furo[3,2-b]pyridin-7-ylthio)phenyl)phthalazin-1-amine | ClC=1C=CC(=NC1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=C2C(=NC=C1)C=CO2 | C26H16ClN5OS
